US07767716B2
Preparation of N′-[2-(3-hydroxyphenyl)acetyl]-2-ethyl-4-hydroxybenzohydrazide (“60”)
57.4 g of N′-[2-(3-hydroxyphenyl)acetyl]-4-benzyloxy-2-ethylbenzohydrazide are dissolved in 1.5 l of THF and hydrogenated for 24 h. The catalyst (5% Pd/C, 35 g) is added in 3 portions. The catalyst is filtered off with suction, the solution is evaporated, and the residue is crystallised from MeCN, giving 41.1 g of “60” (92%); m.p. 199-200°.

reactant | N′-[2-(3-hydroxyphenyl)acetyl]-4-benzyloxy-2-ethylbenzohydrazide | 57.4 g | OC=1C=C(C=CC1)CC(=O)NNC(C1=C(C=C(C=C1)OCC1=CC=CC=C1)CC)=O | C24H24N2O4
solvent | THF | 1.5 l | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | N′-[2-(3-hydroxyphenyl)acetyl]-2-ethyl-4-hydroxybenzohydrazide | OC=1C=C(C=CC1)CC(=O)NNC(C1=C(C=C(C=C1)O)CC)=O | C17H18N2O4
